US05925755
50 mmol of Amberlite (trade mark) IR-45 (OH) was mixed with 15 mmol (10 ml) aqueous isethionic acid and the resulting material was packed into a column. The column was then washed with methanol. 0.7 g (2 mmol) of a methanolic solution of 3,5-diamino-6-(2,3-dichlorophenyl)-1,2,4-triazine mesylate was eluted through the column. The elutant was evaporated in vacuo and the residue was recrystallised from industrial methylated spirit and gave 3,5-diamino-6-(2,3-dichlorophenyl)-1,2,4-triazine isethionate:

reactant | isethionic acid | 15 mmol, 10 ml | S(=O)(=O)(O)CCO | C2H6O4S
reactant | 3,5-diamino-6-(2,3-dichlorophenyl)-1,2,4-triazine mesylate | S(C)(=O)(=O)O.NC=1N=NC(=C(N1)N)C1=C(C(=CC=C1)Cl)Cl
product | 3,5-diamino-6-(2,3-dichlorophenyl)-1,2,4-triazine isethionate | S(=O)(=O)(O)CCO.NC=1N=NC(=C(N1)N)C1=C(C(=CC=C1)Cl)Cl | InChI=1S/C9H7Cl2N5.C2H6O4S/c10-5-3-1-2-4(6(5)11)7-8(12)14-9(13)16-15-7;3-1-2-7(4,5)6/h1-3H,(H4,12,13,14,16);3H,1-2H2,(H,4,5,6)
